US08034937B2
a) 1′-Benzyl-2-bromo-2′,3′,5′,6′-tetrahydro-1′H-[3,4′]bipyridinyl-4′-ol
To a solution of 10 g (42 mmol) 2,3-dibromopyridine in 210 ml dry tetrahydrofuran at room temperature were added 22 ml (44 mmol) 2-propylmagnesium chloride solution (2.0 M in tetrahydrofuran). The reaction mixture was stirred for 1 h at room temperature. A solution of 7.9 g (44 mmol) 1-benzyl-4-piperidone in 40 ml tetrahydrofuran was added, and stirring was continued for 16 h. The reaction mixture was quenched with water, basified to pH 9 with aqueous 2 M sodium hydroxide solution and extracted with tert-butyl methyl ether (3×). The combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. Flash-chromatography (aminopropyl-modified silica gel) gave the title compound (3.4 g, 23%) as an orange amorphous solid.

reactant | 2,3-dibromopyridine | 42 mmol, 10 g | BrC1=NC=CC=C1Br | C5H3Br2N
reactant | 2-propylmagnesium chloride | 44 mmol, 2.0 M, 22 ml | CC(C)[Mg]Cl
reactant | 1-benzyl-4-piperidone | 44 mmol, 7.9 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofuran | 210 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1′-Benzyl-2-bromo-2′,3′,5′,6′-tetrahydro-1′H-[3,4′]bipyridinyl-4′-ol | 3.4 g, 23% | C(C1=CC=CC=C1)N1CCC(CC1)(C=1C(=NC=CC1)Br)O | C17H19BrN2O
